US07166580B2
N-(Toluene-4-sulfonyl)sarcosine was coupled to N-methyl-L-phenylalanine methyl ester using the procedure described in Method 3 to give N-(toluene-4-sulfonyl)sarcosyl-N-methylphenylalanine methyl ester. The title compound was prepared via hydrolysis of the methyl ester using LiOH in THF/water. Proton and carbon NMR analysis indicated a mixture of amide bond rotomers in about a 65:35 ratio.

reactant | N-(Toluene-4-sulfonyl)sarcosine | C1(=CC=C(C=C1)S(=O)(=O)N(C)CC(=O)O)C | C10H13NO4S
reactant | N-methyl-L-phenylalanine methyl ester | COC([C@@H](NC)CC1=CC=CC=C1)=O | C11H15NO2
product | N-(toluene-4-sulfonyl)sarcosyl-N-methylphenylalanine methyl ester | COC([C@@H](N(C)C(CN(C)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=CC=C1)=O | C21H26N2O5S
